US20010000513A1
In a manner similar to Example 17, Step (b), 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (0.43 g, 0.0013 mol) was allowed to react with 1.0 M aqueous sodium hydroxide (2.0 mL, 0.002 mol) in THF-methanol (5 mL each) to give 0.308 g of 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid as a white solid: mp 172.0-173.5° C.

reactant | 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.0013 mol, 0.43 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C21H24O3
reactant | sodium hydroxide | 0.002 mol, 1.0 M, 2.0 mL | [OH-].[Na+]
solvent | THF methanol | 5 mL | C1CCOC1.CO
product | 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid | 0.308 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C20H22O3
